US06686352B2
a) 10-Chloro-5,7-dihydro-2-(1H-indol-3-ylmethyl)-6H-pyrimido[5,4-d][1]benzazepin-6-one
Analogous to Scheme 1, from 7-chloro-4-[(dimethylamino)methylene]-3,4-dihydro-1H-benzazepine-2,5-dione and 2-(1H-indol-3-yl)-acetamidine. Yield: 46%.

reactant | 7-chloro-4-[(dimethylamino)methylene]-3,4-dihydro-1H-benzazepine-2,5-dione | ClC=1C=CC2=C(C(C(CC(N2)=O)=CN(C)C)=O)C1 | C13H13ClN2O2
reactant | 2-(1H-indol-3-yl)-acetamidine | N1C=C(C2=CC=CC=C12)CC(=N)N | C10H11N3
product | 10-Chloro-5,7-dihydro-2-(1H-indol-3-ylmethyl)-6H-pyrimido[5,4-d][1]benzazepin-6-one | Yield: 46% | ClC=1C=CC2=C(C3=C(CC(N2)=O)C=NC(=N3)CC3=CNC2=CC=CC=C32)C1 | C21H15ClN4O
